US04263437
To 100 mg of (10,11-dihydro dibenzo[b,f]thiepin-2-yl)-acetic acid in 5 ml of dry tetrahydrofuran were added 0.2 g of oxalyl chloride and a drop of dimethylformamide, and the mixture was stirred with ice cooling under a dry atmosphere for 3 hours. To the mixture was added 5 ml of tetrahydrofuran containing 1% ammonia, and the mixture was stirred under a dry atmosphere at room temperature for 14 hours. After the addition of water, the mixture was extracted with ethyl acetate. The extract was washed with a 1% sodium hydroxide solution and then with a saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain a residue, which was recrystallized from ethyl acetate, thereby obtaining 66 mg (yield: 66%) of (10,11-dihydro dibenzo[b,f]thiepin-2-yl)-acetamide as colorless crystals having a melting point of 188°-189° C.

reactant | (10,11-dihydro dibenzo[b,f]thiepin-2-yl)-acetic acid | 100 mg | C1=C(C=CC=2SC3=C(CCC21)C=CC=C3)CC(=O)O | C16H14O2S
reactant | oxalyl chloride | 0.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (10,11-dihydro dibenzo[b,f]thiepin-2-yl)-acetamide | 66 mg, yield: 66% | C1=C(C=CC=2SC3=C(CCC21)C=CC=C3)CC(=O)N | C16H15NOS
